US07728018B2
2-(2-Methyl-[1,3]dioxolan-2-yl)-butan-1-ol
2-(2-Methyl-[1,3]dioxolan-2-yl)-butyric acid ethyl ester (85.5 g) was taken up in dry Et2O (50 mL). This mixture was added dropwise to a suspension of LiAlH4 (16.1 g) in dry Et2O (200 mL), cooled in an ice bath. The mixture was refluxed for 4 h., cooled in an ice bath, and quenched by adding H2O (16.1 mL), 2M aqueous NaOH (32.2 mL) and again H2O (16.1 mL). The suspension was filtered, the filter cake was washed with Et2O, and the combined filtrates were evaporated to dryness. The residue (49 g) was purified by vacuum distillation (112-125° C., 15 mbar), yielding 43.5 g of a clear, colorless liquid. 1H NMR (400 MHz, CDCl3) δ 0.98 (t, J=7.5 Hz, 3H), 1.10-1.24 (m, 1H), 1.31 (s, 3H), 1.50-1.75 (m, 2H), 3.12, (br s, 1H), 3.59-3.76 (m, 2H), 3.94-4.02 (m, 4H).

reactant | 2-(2-Methyl-[1,3]dioxolan-2-yl)-butyric acid ethyl ester | 85.5 g | C(C)OC(C(CC)C1(OCCO1)C)=O | C10H18O4
reactant | LiAlH4 | 16.1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 2-(2-Methyl-[1,3]dioxolan-2-yl)-butan-1-ol | CC1(OCCO1)C(CO)CC | C8H16O3
